US08252826B2
4.3 2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2,N-dicyclohexyl-acetamide
To a suspension of [2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-cyclohexyl-acetic acid pentafluorophenyl ester (95 mg, 181 umol) in DMF (0.9 ml) was added cyclohexylamine (30 ul, 271 umol; CAS Reg. No. 108-91-8) and DMAP (66 mg, 543 umol) at ambient temperature under an argon atmosphere. The reaction mixture was stirred at ambient temperature for 30 h. The solvent was removed under reduced pressure to give a brown oil which was purified by preparative thin layer chromatography (silica gel, iPrOAc/heptane) to obtain the title compound (32 mg, 75 umol; 40%) as brown oil. MS: m/e=440.3 [M+H+].

reactant | [2-(4-chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-cyclohexyl-acetic acid pentafluorophenyl ester | 181 umol, 95 mg | FC1=C(C(=C(C(=C1OC(C(C1CCCCC1)C=1N(N=C2C1CCC2)C2=CC=C(C=C2)Cl)=O)F)F)F)F | C26H22ClF5N2O2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | DMF | 0.9 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 543 umol, 66 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-[2-(4-Chloro-phenyl)-2,4,5,6-tetrahydro-cyclopentapyrazol-3-yl]-2,N-dicyclohexyl-acetamide | 75 umol, 32 mg, 40% | ClC1=CC=C(C=C1)N1N=C2C(=C1C(C(=O)NC1CCCCC1)C1CCCCC1)CCC2 | C26H34ClN3O
